US04004011
6-methyl-8-(2-phenoxy-5-pyridylamino)ergoline
The following compounds (isomers Ia and Ib) are obtained in a manner analogous to that described in Example 3, from 2-phenoxy-5-aminopyridine and 6-methyl-8-oxo-ergoline in the presence of palladium:

reactant | 2-phenoxy-5-aminopyridine | O(C1=CC=CC=C1)C1=NC=C(C=C1)N | C11H10N2O
reactant | 6-methyl-8-oxo-ergoline | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)=O | C15H16N2O
catalyst | palladium | [Pd] | Pd
product | 6-methyl-8-(2-phenoxy-5-pyridylamino)ergoline | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC=3C=CC(=NC3)OC3=CC=CC=C3 | C26H26N4O
